US04762942
4-[(2-Ethyl-4-tetradecylphenoxy)methyl]-2,2-dimethyl-1,3-dioxolane
To a suspension of 2.53 g of prewashed 50% sodium hydride in 130 ml of dimethylformamide was added dropwise a solution of 11.99 g of 2-ethyl-4-tetradecylphenol in dimethylformamide. The resulting suspension was heated at 80° C. for 1/2 hour, then allowed to cool and 10.29 g the mesylate of solketal was added. The mixture was heated at reflux for 3 hours, then cooled quenched slowly with water and extracted several times with ether. The ether extracts were combined, washed with brine, dried and the solvents evaporated, giving 16.1 g of the desired compound, mp 34°-38° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-ethyl-4-tetradecylphenol | 11.99 g | C(C)C1=C(C=CC(=C1)CCCCCCCCCCCCCC)O | C22H38O
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | solketal | CC1(OCC(O1)CO)C | C6H12O3
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
product | 4-[(2-Ethyl-4-tetradecylphenoxy)methyl]-2,2-dimethyl-1,3-dioxolane | 16.1 g | C(C)C1=C(OCC2OC(OC2)(C)C)C=CC(=C1)CCCCCCCCCCCCCC | C28H48O3
